US07410986B2
To a cold (0° C.) solution of 2-amino-6-(2-benzyloxyphenyl)-4-(4-chloro-3-nitrophenyl)nicotinonitrile (1.000 g, 2.189 mmol) in DMF (10 mL) was added pyrrolidine (0.778 g, 10.943 mmol). The mixture was stirred at room temperature for 2 hrs. and then at 60° C. for 2 hrs. The reaction mixture was partitioned between ethyl acetate and water. The separated organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was suspended in ethanol, and the precipitate was collected by filtration, washed with ethyl acetate and dried under reduced pressure to give 2-amino-6-(2-benzyloxyphenyl)-4-[3-nitro-4-(1-pyrrolidinyl)phenyl]nicotinonitrile as a yellow solid (0.990 g, yield 92%).

reactant | 2-amino-6-(2-benzyloxyphenyl)-4-(4-chloro-3-nitrophenyl)nicotinonitrile | 2.189 mmol, 1.000 g | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C25H17ClN4O3
reactant | pyrrolidine | 10.943 mmol, 0.778 g | N1CCCC1 | C4H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-amino-6-(2-benzyloxyphenyl)-4-[3-nitro-4-(1-pyrrolidinyl)phenyl]nicotinonitrile | 0.990 g, yield 92% | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)N1CCCC1)[N+](=O)[O-] | C29H25N5O3
